US07094801B2
3-Amino-4-{4-[3E-(5-benzo[b]thiophen-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-phenylamino}-cyclobut-3-ene-1,2-dione
3-(4-Acetyl-phenylamino)-4-amino-cyclobut-3-ene-1,2-dione (Ex-102A, 0.46 g, 2 mmol), and 5-(benzo[b]thien-2-yl)-2,4-dimethoxybenzaldehyde (Ex-3A, 0.596 g, 2 mmol) were dissolved in DMF (10 mL) under nitrogen, and 4.0 ml (4 mmol) of LiOMe (1.0 M in MeOH) was added. The mixture was stirred under nitrogen at room temperature over night. The reaction mixture was poured into ice-water, acidified to pH1 with 3N HCl, extracted with dichloromethane. The combined organic phase was then washed with brine and water, dried over MgSO4, column chromatography (5% MeOH in CH2Cl2) to give 57 mg (5.4%) title compound as a yellow solid, mp>260° C. 1H-NMR (DMSO-d6) δ 10.08 (s, 1H), 8.36 (s, 1H), 8.18 (d, J=8 Hz, 2H), 8.03 (d, J=15 Hz, 1H), 7.82–7.95 (m, 4H), 7.57 (d, J=8 Hz, 2H), 7.27–7.37 (m, 2H), 6.85 (s, 1H), 4.02 (s, 3H), 3.99 (s, 3H), 3.26 (s, 2H). MS m/z=511[M+H]+, (20%), 416 (100%). HRMS (ES+) Calcd. for C29H22N2O5S: 511.1327. Found: 511.1326.

reactant | 3-(4-Acetyl-phenylamino)-4-amino-cyclobut-3-ene-1,2-dione | 2 mmol, 0.46 g | C(C)(=O)C1=CC=C(C=C1)NC=1C(C(C1N)=O)=O | C12H10N2O3
reactant | 5-(benzo[b]thien-2-yl)-2,4-dimethoxybenzaldehyde | 2 mmol, 0.596 g | S1C2=C(C=C1C=1C(=CC(=C(C=O)C1)OC)OC)C=CC=C2 | C17H14O3S
reactant | LiOMe | 4 mmol, 1.0 M, 4.0 ml | O([Li])C
reactant | HCl | 3N | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-Amino-4-{4-[3E-(5-benzo[b]thiophen-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-phenylamino}-cyclobut-3-ene-1,2-dione | 57 mg, 5.4% | NC=1C(C(C1NC1=CC=C(C=C1)C(\C=C\C1=C(C=C(C(=C1)C1=CC2=C(S1)C=CC=C2)OC)OC)=O)=O)=O | C29H22N2O5S
